US06307089B2
Step (a) Preparation of 4-(3′,4′-Dichloro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester
In a manner similar to Example 12, Step (b), (3,4-dichloro-phenyl)boronic acid (1.0569 g, 0.005539 mol) was allowed to react with 4-(4-bromo-phenyl)-4-oxo-butyric acid, methyl ester (1.3636 g, 0.005019 mol) in the presence of tetrakis(triphenylphosphine(palladium(0) (0.1054 g, 0.0000912 mol) and 2.0 M aqueous sodium carbonate (5.5 mL, 0.011 mol) in toluene (11 mL) to give, after chromatography on silica gel (270 g, 230-400 mesh), eluting with hexanes-acetone (7:1) 1.432 g of 4-(3′,4′-dichloro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester as a white solid: mp 120-121° C.

reactant | (3,4-dichloro-phenyl)boronic acid | 0.005539 mol, 1.0569 g | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
reactant | 4-(4-bromo-phenyl)-4-oxo-butyric acid, methyl ester | 0.005019 mol, 1.3636 g | BrC1=CC=C(C=C1)C(CCC(=O)OC)=O | C11H11BrO3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 0.011 mol, 2.0 M, 5.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 11 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | palladium(0) | 0.0000912 mol, 0.1054 g | [Pd] | Pd
product | 4-(3′,4′-Dichloro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester | ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)C(CCC(=O)OC)=O | C17H14Cl2O3
